* NGSPICE file created from mux_inv_rcx.ext - technology: ihp-sg13g2

.subckt mux_inv_rcx X VDD VSS SEL B A
X0 a_228_96# a_32_96# VSS.t3 VSS.t6 sg13_lv_nmos ad=61.19999f pd=0.86u as=0.1292p ps=1.06u w=0.68u l=0.13u
X1 X.t0 A.t0 a_228_96# VSS.t4 sg13_lv_nmos ad=0.1292p pd=1.06u as=61.19999f ps=0.86u w=0.68u l=0.13u
X2 VSS.t3 SEL.t1 a_32_96# VSS.t2 sg13_lv_nmos ad=0.1292p pd=1.06u as=0.2312p ps=2.04u w=0.68u l=0.13u
X3 X.t1 A.t0 a_228_456# VDD.t0 sg13_lv_pmos ad=0.1938p pd=1.4u as=91.8f ps=1.2u w=1.02u l=0.13u
X4 a_392_456# B.t0 X.t1 VDD.t0 sg13_lv_pmos ad=91.8f pd=1.2u as=0.1938p ps=1.4u w=1.02u l=0.13u
X5 VDD.t1 SEL.t1 a_32_96# VDD.t0 sg13_lv_pmos ad=0.1938p pd=1.4u as=0.3468p ps=2.72u w=1.02u l=0.13u
X6 VDD.t3 a_32_96# a_392_456# VDD.t0 sg13_lv_pmos ad=0.3468p pd=2.72u as=91.8f ps=1.2u w=1.02u l=0.13u
X7 a_228_456# SEL.t1 VDD.t1 VDD.t0 sg13_lv_pmos ad=91.8f pd=1.2u as=0.1938p ps=1.4u w=1.02u l=0.13u
X8 VSS.t1 SEL.t0 a_392_96# VSS.t0 sg13_lv_nmos ad=0.2312p pd=2.04u as=61.19999f ps=0.86u w=0.68u l=0.13u
X9 a_392_96# B.t0 X.t0 VSS.t5 sg13_lv_nmos ad=61.19999f pd=0.86u as=0.1292p ps=1.06u w=0.68u l=0.13u
R0 X.n0 X.t0 19.4708
R1 X.n0 X.t1 8.5005
R2 X X.n0 0.1127
R3 B B.t0 15.0931
R4 A A.t0 15.0738
R5 SEL.n0 SEL.t0 15.8707
R6 SEL.n0 SEL.t1 15.0005
R7 SEL SEL.n0 0.0605
R8 VDD.n1 VDD.t3 17.3206
R9 VDD.n0 VDD.t1 8.71077
R10 VDD.n3 VDD.n2 8.47111
R11 VDD.n2 VDD.n1 4.18824
R12 VDD.n2 VDD.t0 2.83383
R13 VDD.n1 VDD.n0 0.263458
R14 VDD VDD.n3 0.120789
R15 VDD.n3 VDD.n0 0.085789
R16 VSS.n2 VSS.t6 478.548
R17 VSS.n3 VSS.t4 393.334
R18 VSS.t5 VSS.n0 354.848
R19 VSS.n3 VSS.t5 286.668
R20 VSS.t4 VSS.n1 246.667
R21 VSS.t6 VSS.n1 166.667
R22 VSS.n2 VSS.t2 138.085
R23 VSS.n0 VSS.t0 53.1464
R24 VSS.n5 VSS.t1 17.3199
R25 VSS.n4 VSS.n1 17.0005
R26 VSS.n4 VSS.n3 17.0005
R27 VSS.n4 VSS.n0 15.0589
R28 VSS.n4 VSS.n2 11.3596
R29 VSS.n6 VSS.t3 8.71077
R30 VSS.n7 VSS.n4 8.47111
R31 VSS.n5 VSS.n4 4.18824
R32 VSS.n6 VSS.n5 0.264225
R33 VSS VSS.n7 0.120789
R34 VSS.n7 VSS.n6 0.085789
C0 a_32_96# X 0.39369f
C1 B A 0.08583f
C2 B SEL 0.21344f
C3 a_32_96# A 0.19553f
C4 a_32_96# SEL 0.51238f
C5 a_32_96# B 0.09631f
C6 a_392_96# X 0.00682f
C7 a_228_456# VDD 0
C8 X a_228_456# 0.00716f
C9 a_392_96# SEL 0
C10 X a_228_96# 0.00146f
C11 a_228_456# SEL 0
C12 a_392_456# VDD 0
C13 a_392_96# B 0
C14 X a_392_456# 0.00767f
C15 X VDD 0.36273f
C16 a_228_96# SEL 0.00193f
C17 A VDD 0.04874f
C18 X A 0.01218f
C19 a_392_456# SEL 0
C20 a_32_96# a_228_456# 0.00465f
C21 VDD SEL 0.11432f
C22 X SEL 0.17994f
C23 a_228_96# B 0.00198f
C24 a_32_96# a_228_96# 0
C25 A SEL 0.22614f
C26 B VDD 0.03944f
C27 X B 0.14495f
C28 a_32_96# a_392_456# 0.00432f
C29 a_32_96# VDD 0.31179f
C30 X VSS 0.39031f
C31 B VSS 0.36592f
C32 A VSS 0.2084f
C33 SEL VSS 0.3157f
C34 VDD VSS 0.1584f
C35 a_392_96# VSS 0
C36 a_228_96# VSS 0.00579f
C37 a_32_96# VSS 0.41616f
C38 VDD.t1 VSS 0.03245f
C39 VDD.n0 VSS 0.05007f
C40 VDD.t3 VSS 0.02918f
C41 VDD.n1 VSS 0.06205f
C42 VDD.t0 VSS 0.61281f
C43 VDD.n2 VSS 0.07166f
C44 VDD.n3 VSS 0.00965f
C45 SEL.t0 VSS 0.16785f
C46 SEL.t1 VSS 0.56828f
C47 SEL.n0 VSS 0.43417f
C48 A.t0 VSS 0.43398f
C49 B.t0 VSS 0.3389f
C50 X.t0 VSS 0.19f
C51 X.t1 VSS 0.24358f
C52 X.n0 VSS 0.6029f
.ends

